US06846835B2
2-(Piperidin-4-yl)ethyl(2R)-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-bromophenyl)ethanoate
Using (2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-bromophenyl)acetic acid and t-butyl 4-(2-hydroxyethyl)tetrahydropyridine-1(2H)-carboxylate, the title compound was prepared by a method similar to steps 2 and 3 of Referential Example 12.

reactant | (2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-bromophenyl)acetic acid | FC1(C[C@@H](CC1)[C@](C(=O)O)(C1=CC=C(C=C1)Br)O)F | C13H13BrF2O3
reactant | t-butyl 4-(2-hydroxyethyl)tetrahydropyridine-1(2H)-carboxylate | OCCC1CCN(CC1)C(=O)OC(C)(C)C | C12H23NO3
product | 2-(Piperidin-4-yl)ethyl(2R)-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-bromophenyl)ethanoate | FC1(C[C@@H](CC1)[C@](C(=O)OCCC1CCNCC1)(C1=CC=C(C=C1)Br)O)F | C20H26BrF2NO3
